data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_568309_0,[C:1]([C:3]([O:6][H:10])=[O:9])(/[C:4]([N:5]([H:13])[H:14])=[N:8]/[C:2]([H:15])([H:16])[H:17])([O:7][H:11])[H:12]>>[C:1](=[C:4](/[N:5]([H:13])[H:14])[N:8]([C:2]([H:15])([H:16])[H:17])[C:3]([O:6][H:10])=[O:9])(\[O:7][H:11])[H:12],54.36095250004272
MR_267740_0,[C:1]([N:2]([N:3]([H:8])[H:9])[H:7])(/[C:6](=[C:5](/[N:4]([H:10])[H:11])[H:14])[H:15])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:2]([N:3]([H:8])[H:9])[C:6]1([C:5]([N:4]([H:10])[H:11])([H:7])[H:14])[H:15],67.53468750002597
MR_512134_1,[C@:1]([N:3]([C:2]([H:19])([H:20])[H:21])[H:11])([C:4](=[C:5]([N:7]([H:16])[H:17])[N:8]([H:15])[H:18])[N:6]([H:13])[H:14])([O:9][H:10])[H:12]>>[C:1](=[C:4](\[C:5]([N:3]([C:2]([H:19])([H:20])[H:21])[H:11])([N:7]([H:16])[H:17])[N:8]([H:15])[H:18])[N:6]([H:13])[H:14])(\[O:9][H:10])[H:12],68.36863499998927
MR_84167_2,[C:1](\[O:6][H:9])(=[N:7]\[C:3]1([C:2]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[N:8]1[N:4]([H:11])[H:12])[H:10]>>[C:1]([N:4]([H:11])[H:12])([O:6][H:9])(/[N:7]=[C:3](/[C:2]([H:13])([H:14])[H:15])[N:8]=[C:5]([H:16])[H:17])[H:10],39.646705000025264
MR_532562_0,[C:1]([C:3]([C:2]([N:4]([H:9])[H:10])=[O:6])=[O:7])([O:5][H:8])([H:11])[H:12]>>[C:1]([C:2]([C:3]([N:4]([H:9])[H:10])=[O:7])=[O:6])([O:5][H:8])([H:11])[H:12],68.7727450000034
MR_428721_1,[C@:1]([N:4]([C:2]([H:14])([H:15])[H:16])[H:10])([O:7][H:9])(/[N:8]=[C:5](/[C:3]([H:17])([H:18])[H:19])[N:6]([H:12])[H:13])[H:11]>>[C:1](\[O:7][H:9])(=[N:8]/[C@:5]([C:3]([H:17])([H:18])[H:19])([N:4]([C:2]([H:14])([H:15])[H:16])[H:10])[N:6]([H:12])[H:13])[H:11],54.33271499997133
MR_210055_1,[C:1]([C:3]([O:5][C:2]([H:13])([H:14])[H:15])=[O:8])([N:7][C:4]([O:6][H:9])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:3](=[O:8])[N:7]1[C@:4]([O:5][C:2]([H:13])([H:14])[H:15])([O:6][H:9])[H:12],70.7142299999883
MR_149377_0,[C:1]([C:2]([H:9])([H:10])[H:11])([N:3]([N:4]=[O:5])[H:6])([H:7])[H:8]>>[C:1]([C:2]([H:9])([H:10])[H:11])([O:5]/[N:4]=[N:3]/[H:6])([H:7])[H:8],51.43115499998487
MR_10058_0,[C:1]([N:3]([N:2](/[N:5]=[N:6]/[N:4]([H:9])[H:10])[H:7])[H:8])([H:11])([H:12])[H:13]>>[C:1]([N:3]([N:6]([N:4]([H:9])[H:10])/[N:5]=[N:2]/[H:7])[H:8])([H:11])([H:12])[H:13],62.73619499997778
MR_547698_1,[C:1]1([C:3](/[C:7](=[C:8](\[C:6]([H:21])([H:22])[H:23])[H:14])[H:13])([H:11])[H:12])([C:4]([H:15])([H:16])[H:17])[C:2]([C:5]([H:18])([H:19])[H:20])([H:10])[O:9]1>>[C@:1]1([C:3](/[C:7](=[C:8](\[C:6]([H:21])([H:22])[H:23])[H:14])[H:13])([H:11])[H:12])([C:4]([H:15])([H:16])[H:17])[C@:2]([C:5]([H:18])([H:19])[H:20])([H:10])[O:9]1,60.70372249997291
MR_437934_0,[C:1]([C:5]([N:4]([C:7](=[O:8])[H:10])[H:9])=[C:6]([C:2]([H:15])([H:16])[H:17])[C:3]([H:14])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:1](/[C:5](=[N:4]/[H:9])[C:6]([C:2]([H:15])([H:16])[H:17])([C:3]([H:14])([H:18])[H:19])[C:7](=[O:8])[H:10])([H:11])([H:12])[H:13],65.6666199999627
MR_384828_1,[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([O:4][O:5][H:8])([O:6][H:9])[O:7][H:10]>>[C:1](=[C:2]([C:3]([O:4][O:5][H:8])([H:12])[H:13])[H:11])([O:6][H:9])[O:7][H:10],42.98626000001164
MR_169337_2,[C:1]([C:3]([C:5]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:18])[H:19])=[C:6]([H:16])[H:17])([O:8][N:4]([H:9])[H:10])([H:11])[H:12]>>[C:1](=[C:3]([C:5]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:18])[H:19])[C:6]([O:8][N:4]([H:9])[H:10])([H:16])[H:17])([H:11])[H:12],49.19348999999869
MR_308315_0,[C:1]([C:2]([C:5]([H:18])([H:19])[H:20])=[O:9])([C:4]([H:15])([H:16])[H:17])([C:6]1([O:10][H:12])[C:3]([H:13])([H:14])[O:7]1)[O:8][H:11]>>[C:1]1([C:4]([H:15])([H:16])[H:17])([O:8][H:11])[C:2]([C:5]([H:18])([H:19])[H:20])([O:9][H:12])[C:3]([H:13])([H:14])[O:7][C:6]1=[O:10],45.47869000003232
MR_504810_1,[C:1]1([C:2]([H:14])([H:15])[H:16])([O:5][H:9])[C:3](/[C:4](=[N:8]\[H:12])[H:13])([O:6][H:10])[N:7]1[H:11]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3](/[C:4](=[N:8]\[H:12])[H:13])=[N:7]\[H:11])([O:5][H:9])[O:6][H:10],55.49923750002236
MR_111293_1,[C:1](/[C:4]([C:3]([H:16])([H:17])[H:18])=[C:6](/[N:5]([H:8])[H:9])[H:12])([O:7][C:2]([H:13])([H:14])[H:15])([H:10])[H:11]>>[C:1](=[C:4]([C:3]([H:16])([H:17])[H:18])[C@:6]([N:5]([H:8])[H:9])([O:7][C:2]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11],48.37020999997279
MR_463772_2,[C:1]1([C:7](=[C:8]([C:5]([H:19])([H:20])[H:24])[C:6]([H:21])([H:22])[H:23])[N:9]([H:12])[H:13])([H:10])[C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[C:3]1([H:14])[H:15]>>[C:1]1([H:10])=[C:7]([N:9]([H:12])[H:13])[C:8]([C:5]([H:19])([H:20])[H:24])([C:6]([H:21])([H:22])[H:23])[C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[C:3]1([H:14])[H:15],61.08398749997591
MR_686900_0,[C:1]([N:3]([N:4]([C:6]([O:7][H:9])=[O:8])[H:10])[N:5]([C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14]>>[C:1]([N:3]([N:4]([N:5]([C:2]([H:15])([H:16])[H:17])[H:11])[H:10])[C:6]([O:7][H:9])=[O:8])([H:12])([H:13])[H:14],60.54622000001388
MR_132084_0,[C:1]([C:3]([H:12])([H:13])[H:14])([O:4][H:7])(/[N:5]=[N:6]/[C:2]([H:9])([H:10])[H:11])[H:8]>>[C:1](\[C:3]([H:12])([H:13])[H:14])([O:4][H:7])=[N:5]/[N:6]([C:2]([H:9])([H:10])[H:11])[H:8],70.46072000002198
